US09035059B2
(±)-cis-2-(3-Fluorotetrahydro-2 H-pyran-4-yl)ethyl 4-methylbenzene sulfonate
Trimethylamine hydrochloride (128 mg, 1.34 mmol) and triethylamine (0.39 mL, 2.81 mmol) were added to a solution of (±)-cis-2-(3-fluorotetrahydro-2 H-pyran-4-yl)ethanol obtained (198 mg, 1.34 mmol) in toluene (5 mL). Subsequently, p-toluenesulfonyl chloride (382 mg, 2.00 mmol) was added thereto while cooling in ice, and the mixture was stirred for 1 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane only→hexane:ethyl acetate=1:1) to afford the title compound (354 mg) as a colorless oil.

reactant | Trimethylamine hydrochloride | 1.34 mmol, 128 mg | Cl.CN(C)C
reactant | triethylamine | 2.81 mmol, 0.39 mL | C(C)N(CC)CC | C6H15N
reactant | (±)-cis-2-(3-fluorotetrahydro-2 H-pyran-4-yl)ethanol | F[C@@H]1COCC[C@@H]1CCO | C7H13FO2
reactant | p-toluenesulfonyl chloride | 2.00 mmol, 382 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | (±)-cis-2-(3-Fluorotetrahydro-2 H-pyran-4-yl)ethyl 4-methylbenzene sulfonate | 354 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC[C@@H]1[C@@H](COCC1)F | C14H19FO4S
